US08383821B2
tert-Butyl 4-(((5-carbamoyl-4′-fluorobiphenyl-3-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate.
3-Bromo-5-(((1-(tert-butoxycarbonyl)-4-phenylpiperidin-4-yl)methoxy)methyl)benzoic acid (0.66 g, 1.31 mmol), 4-fluorophenylboronic acid (0.55 g, 3.93 mmol), and tetrakis(triphenylphosphine) palladium(0) (82 mg, 0.05 mmol) were combined in dry tetrahydrofuran (10 mL) in a microwave tube and sealed. After flushing with nitrogen, 5.5 mL of a 1 N potassium hydroxide aqueous solution was introduced. The mixture was heated at 120° C. for 1 h via microwave. After cooling to room temperature, the reaction mixture was concentrated, dissolved in dimethylformamide (6 mL) and cooled to 0° C. The reaction mixture was sequentially treated with methylene chloride (2 mL), 7 N ammonia in methanol (0.33 mL, 2.3 mmol), N,N-diisopropylethylamine (0.51 mL, 2.9 mmol), and PyBop® (0.72 g, 1.4 mmol). The ice bath was removed and the solution stirred for 1.5 h and concentrated. The product was purified by column chromatography (50% ethyl acetate/hexanes) to give 0.4 g (66%). 1H-NMR (CDCl3, 500 MHz) δ 7.85 (s, 1H), 7.43-7.46 (m, 2H), 7.41 (s, 1H), 7.37 (s, 1H), 7.28-7.31 (m, 4H), 7.15-7.18 9 (m, 1H), 7.07-7.10 (m, 2H), 4.40 (s, 2H), 3.67-3.69 (m, 2H), 3.40 (s, 2H), 2.96-3.00 (m, 2H), 2.14-2.16 (m, 2H), 1.80-1.86 (m, 2H), 1.37 (s, 9H). Mass spec.: 519.39 (MH)+.

reactant | 3-Bromo-5-(((1-(tert-butoxycarbonyl)-4-phenylpiperidin-4-yl)methoxy)methyl)benzoic acid | 1.31 mmol, 0.66 g | BrC=1C=C(C(=O)O)C=C(C1)COCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C25H30BrNO5
reactant | 4-fluorophenylboronic acid | 3.93 mmol, 0.55 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | ammonia | 7 N | N | H3N
reactant | methanol | 2.3 mmol, 0.33 mL | CO | CH4O
reactant | N,N-diisopropylethylamine | 2.9 mmol, 0.51 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | PyBop | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.05 mmol, 82 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 4-(((5-carbamoyl-4′-fluorobiphenyl-3-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate | C(N)(=O)C=1C=C(C=C(C1)C1=CC=C(C=C1)F)COCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C31H35FN2O4
